US05643950
Di-t-butyl dicarbonate (1.15 g, 5.25 mmol) was added to a mixture of 3-hydroxy-4-methoxyphenethylamine hydrochloride (1.05 g, 5.15 mmol) and triethylamine (0.521 g, 5.15 mmol) in water (1 mL), dimethylformamide (5 mL) and dichloromethane (25 mL). The mixture was stirred at room temperature overnight. The organic phase was transferred directly to a silica gel column packed in dichloromethane, and eluted with dichloromethane, then with 10% ethyl acetate in dichlorornethane. Evaporation the eluate provided N-(t-butoxycarbonyl)-2-(3-hydroxy-4-methoxyphenyl)ethylamine, as a white solid, mp 100°-101° C., after trituration with hexane. By the method of example 3, this was converted into the title compound, obtained as the hydrochloride salt, a white solid, mp 111°-112° C. 1H NMR (DMSO-d6) δ 7.84 (s, 3H, --NH3+), 7.2-7.4 (m, 15H), 6.88 (d, J=8 Hz, 1 H), 6.74 (dd, J=1 and 8 Hz, 1H), 6.46 (d, J=1 Hz, 1H), 3.72 (s, 3H), 3.66 (t, J=7 Hz, 2H), 3.08 (t, J=7 Hz, 2H), 2.90 (t, J=7 Hz, 2H), 2.68 (t, J=7 Hz, 2H), Anal. calcd. for C30H31NO2.HCl.0.25 H2O: C, 75.30; H, 6.85; N, 2.93. Found: C, 75.10; H, 6.74; N, 2.80.

reactant | Di-t-butyl dicarbonate | 5.25 mmol, 1.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-hydroxy-4-methoxyphenethylamine hydrochloride | 5.15 mmol, 1.05 g | Cl.OC=1C=C(CCN)C=CC1OC
reactant | triethylamine | 5.15 mmol, 0.521 g | C(C)N(CC)CC | C6H15N
solvent | water | 1 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(t-butoxycarbonyl)-2-(3-hydroxy-4-methoxyphenyl)ethylamine | C(C)(C)(C)OC(=O)NCCC1=CC(=C(C=C1)OC)O | C14H21NO4
